US06653305B2
(1) [N-benzyl-N-(2-hydroxybutyl)amino]acetic acid
Obtained by reacting benzylglycine with 1,2-epoxybutane in 1N sodium hydroxide solution.

reactant | benzylglycine | C(C1=CC=CC=C1)NCC(=O)O | C9H11NO2
reactant | 1,2-epoxybutane | O1CC1CC | C4H8O
solvent | sodium hydroxide | 1N | [OH-].[Na+]
product | [N-benzyl-N-(2-hydroxybutyl)amino]acetic acid | C(C1=CC=CC=C1)N(CC(CC)O)CC(=O)O | C13H19NO3
